US06391874B1
(1-Benzyl-1H-indazol-5-yl)-(7-iodoquinazolin-4-y)-amine hydrochloride
4-Chloro-7-iodoquinazoline (0.42 g) was treated with 1-benzyl-1H-indazol-5-ylamine (0.323 g) in acetonitrile (20 ml) at reflux under nitrogen for 18 hours (Procedure A). The mixture was cooled and filtered to give the title compound (0.57 g); m/z (M+1+) 478.

reactant | 4-Chloro-7-iodoquinazoline | 0.42 g | ClC1=NC=NC2=CC(=CC=C12)I | C8H4ClIN2
reactant | 1-benzyl-1H-indazol-5-ylamine | 0.323 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)N | C14H13N3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (1-Benzyl-1H-indazol-5-yl)-(7-iodoquinazolin-4-y)-amine hydrochloride | 0.57 g | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)I | InChI=1S/C22H16IN5.ClH/c23-17-6-8-19-20(11-17)24-14-25-22(19)27-18-7-9-21-16(10-18)12-26-28(21)13-15-4-2-1-3-5-15;/h1-12,14H,13H2,(H,24,25,27);1H
